US07875639B2
3-(2-methoxyethyl)-1,3-thiazol-2(3H)-imine hydrobromide
A mixture of 2-aminothiazole (15 g, 0.15 mol) and 2-bromoethyl methyl ether(17 mL, 0.18 mol) were heated at 85° C. for 16 hours. After cooling to ambient temperature the resulting solid was triturated twice with isopropyl alcohol and collected by filtration to afford 26 g (72%) of the title compound. 1H NMR (DMSO-d6, 300 MHz) δ ppm 3.27 (s, 3 H), 3.63 (t, J=5.1 Hz, 2 H), 4.23 (t, J=4.9 Hz, 2 H), 7.02 (d, J=4.7 Hz, 1 H), 7.38 (d, J=4.4 Hz, 1 H), 9.52 (s, 1H); MS (DCI/NH3) m/z 159 (M+H)+.

reactant | 2-aminothiazole | 0.15 mol, 15 g | NC=1SC=CN1 | C3H4N2S
reactant | 2-bromoethyl methyl ether | 0.18 mol, 17 mL | COCCBr | C3H7BrO
product | 3-(2-methoxyethyl)-1,3-thiazol-2(3H)-imine hydrobromide | 26 g, 72% | Br.COCCN1C(SC=C1)=N | InChI=1S/C6H10N2OS.BrH/c1-9-4-2-8-3-5-10-6(8)7;/h3,5,7H,2,4H2,1H3;1H
